US04515793
2-[4-[3-Chloro-4-(hydroxymethyl)phenyl]-1-piperazinyl]-1-(2-furanyl)-1-propanone (Cpd. 57)
At ~25°, a solution of 2-chloro-4-(1-piperaziny)-benzenemethanol 3.0 g, 13.2 mmole) in 30 ml of tetrahydrofuran and 4 ml of triethylamine was added during five minutes to a solution of 3-chloro-1-(2-furanyl)-1-propanone (2.8 g. 13.3 mmole based on 75% purity). The mixture was stirred at 25° for one hour (a white precipitate formed) and was then heated under reflux for one half hour. The mixture was then filtered and the filtrate was evaporated at reduced pressure (<40°) to give an orange, heavy oil. The oil was triturated at 25° first with petroleum ether (30°-60°; two times, 50 ml) and then with diethyl ether. The orange-brown solid was collected, washed with a little diethyl ether, recrystallized from 25 ml of toluene, and finally triturated with diethyl ether (two times, 20 ml) and dried to give 3.10 g (67%), mp 95°-98° (Table 3).

reactant | 2-chloro-4-(1-piperaziny)-benzenemethanol | 13.2 mmole, 3.0 g | ClC1=C(C=CC(=C1)N1CCNCC1)CO | C11H15ClN2O
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
reactant | 3-chloro-1-(2-furanyl)-1-propanone | 13.3 mmole, 2.8 g | ClCCC(=O)C=1OC=CC1 | C7H7ClO2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-[4-[3-Chloro-4-(hydroxymethyl)phenyl]-1-piperazinyl]-1-(2-furanyl)-1-propanone | ClC=1C=C(C=CC1CO)N1CCN(CC1)C(C(=O)C=1OC=CC1)C | C18H21ClN2O3
